US04777172
4-Methoxymethyl-5-methyl-6-hydroxypyrimidine (38.40 g) was stirred with phosphorus oxychloride (275 ml) at room temperature for 24 hours. The mixture was stripped, ice/water added and the pH raised to 11.5 (NaOH). The solution was extracted with chloroform, extracts dried (MgSO4) and stripped to give 4-methoxymethyl-5-methyl-6-chloropyrimidine, 38.23 g, as an oil, which solidified on cooling to 5° (m.p. 37°-38°). It was used without further purification.

reactant | 4-Methoxymethyl-5-methyl-6-hydroxypyrimidine | 38.40 g | COCC1=NC=NC(=C1C)O | C7H10N2O2
reactant | phosphorus oxychloride | 275 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | [OH-].[Na+]
product | 4-methoxymethyl-5-methyl-6-chloropyrimidine | COCC1=NC=NC(=C1C)Cl | C7H9ClN2O
